US06051712
In an analogous manner to that described in Example 24 (m), reaction of tert-butyl (3RS,4RS,5SR)-4-(4-hydroxymethyl-phenyl)-3-(naphthalen-2-ylmethoxy)-5-trityloxymethyl-piperidine-1-carboxylate with benzyl isocyanate gave tert-butyl (3RS,4RS,5SR)-4-(4-benzylcarbamoyloxymethyl-phenyl)-3-(naphthalen-2-ylmethoxy)-5-trityloxymethyl-piperidine-1-carboxylate, from which by cleavage of the trityl group by means of a mixture of trifluoroacetic acid and trifluoroacetic anhydride in methylene chloride analogously to Example 86 (u) there was obtained tert-butyl (3SR,4RS,5RS)-4-(4-benzylcarbamoyloxymethyl-phenyl)-3-hydroxymethyl-5-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate. Subsequent alkylation with methyl iodide analogously to Example 1 (g) yielded tert-butyl (3SR,4RS,5RS)-4-[4-[(benzyl-methyl-carbamoyloxy)-methyl]-phenyl]-3-methoxymethyl-5-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate as a colourless oil; MS: 656 (M+NH4)+.

reactant | tert-butyl (3RS,4RS,5SR)-4-(4-hydroxymethyl-phenyl)-3-(naphthalen-2-ylmethoxy)-5-trityloxymethyl-piperidine-1-carboxylate | OCC1=CC=C(C=C1)C1C(CN(CC1COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C48H49NO5
reactant | benzyl isocyanate | C(C1=CC=CC=C1)N=C=O | C8H7NO
product | tert-butyl (3RS,4RS,5SR)-4-(4-benzylcarbamoyloxymethyl-phenyl)-3-(naphthalen-2-ylmethoxy)-5-trityloxymethyl-piperidine-1-carboxylate | C(C1=CC=CC=C1)NC(=O)OCC1=CC=C(C=C1)C1C(CN(CC1COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C56H56N2O6
